US07666879B2
B. N-(5-tert-Butyl-isoxazol-3-yl)-2-{4-[7-(1H-pyrazol-4-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-acetamide
Dissolve N-(5-tert-Butyl-isoxazol-3-yl)-2-{4-[7-(1-dimethylsulfamoyl-1H-pyrazol-4-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-acetamide in CH2Cl2, methanol and 1 N HCl in ether in equal volumes and then concentrate to give a solid. Dissolve the solid in HOAc and stir for 1 hour. Concentrate and purify by silica gel chromatography with 0-5% MeOH in CH2Cl2. MS(ES), m/z 441 (M+1).

reactant | N-(5-tert-Butyl-isoxazol-3-yl)-2-{4-[7-(1-dimethylsulfamoyl-1H-pyrazol-4-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-acetamide | C(C)(C)(C)C1=CC(=NO1)NC(CC1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)C=2C=NN(C2)S(N(C)C)(=O)=O)=O | C27H29N7O4S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | HCl | 1 N | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | HOAc | CC(=O)O | C2H4O2
product | N-(5-tert-Butyl-isoxazol-3-yl)-2-{4-[7-(1H-pyrazol-4-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-acetamide | C(C)(C)(C)C1=CC(=NO1)NC(CC1=CC=C(C=C1)C1=CN=C2N1C=CC(=C2)C=2C=NNC2)=O | C25H24N6O2
